US06057337
2-(2-Hydroxyethyl)piperidine, HOBt and WSCI are added to N,N-dimethylformamide solution of 4-(dimethylamino)butyrate while being cooled with ice and the mixture is reacted at room temperature to obtain 1-[4-(dimethylamino)butanoyl]-2-(2-hydroxyethyl)piperidine.

reactant | 2-(2-Hydroxyethyl)piperidine | OCCC1NCCCC1 | C7H15NO
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-(dimethylamino)butyrate | CN(CCCC(=O)[O-])C
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-[4-(dimethylamino)butanoyl]-2-(2-hydroxyethyl)piperidine | CN(CCCC(=O)N1C(CCCC1)CCO)C | C13H26N2O2
